US08071824B2
To 4.9 g (35.7 mmol) of 2-nitrotoluene in 30 ml of DMF are added, within one hour, 0.168 g (2.55 mmol; 85% purity) of KOH and simultaneously 5 g (71.34 mmol) of cyclopropylcarboxaldehyde. The mixture is stirred at room temperature (RT) for 0.5 h, then 0.5 equivalent of cyclopropylcarboxaldehyde is added and the mixture is stirred at RT for a further hour. Subsequently, a majority of the DMF is distilled off under reduced pressure, and the residue is admixed with water and extracted with ethyl acetate. After the evaporation of the solvent and chromatography using silica gel (elution with toluene/ethyl acetate mixtures), 4.2 g (yield 55% of theory, purity (GC-MS 95.9%) of 1-cyclopropyl-2-(2-nitrophenyl)ethanol were obtained in the form of an oil.

reactant | 2-nitrotoluene | 35.7 mmol, 4.9 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | KOH | 2.55 mmol, 0.168 g | [OH-].[K+]
reactant | cyclopropylcarboxaldehyde | 71.34 mmol, 5 g | C1CC1C(C#N)O | C5H7NO
reactant | cyclopropylcarboxaldehyde | 0.5 equivalent | C1CC1C(C#N)O | C5H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-cyclopropyl-2-(2-nitrophenyl)ethanol | 95.9% | C1(CC1)C(CC1=C(C=CC=C1)[N+](=O)[O-])O | C11H13NO3
